US07915281B2
N4-{[3-(4-Fluorophenyl)isoxazol-5-yl]methyl}-N2,N2-bis(4-methoxybenzyl)-5,6-dimethylpyridine-2,3,4-triamine (6.00 g, 10.6 mmol), triethyl orthopropionate (3.2 mL, 16 mmol), concentrated hydrochloride acid (0.2 mL), and toluene (30 mL) were combined and treated according to the method described in Part E of Example 18 with the modification that no additional triethyl orthopropionate was added. 2-Ethyl-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-N,N-bis(4-methoxybenzyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine (2.52 g) was obtained as a yellow solid.

reactant | N4-{[3-(4-Fluorophenyl)isoxazol-5-yl]methyl}-N2,N2-bis(4-methoxybenzyl)-5,6-dimethylpyridine-2,3,4-triamine | 10.6 mmol, 6.00 g | FC1=CC=C(C=C1)C1=NOC(=C1)CNC1=C(C(=NC(=C1C)C)N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)N | C33H34FN5O3
reactant | triethyl orthopropionate | 16 mmol, 3.2 mL | C(CC)(OCC)(OCC)OCC | C9H20O3
reactant | hydrochloride | 0.2 mL | Cl | ClH
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Ethyl-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-N,N-bis(4-methoxybenzyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine | 2.52 g | C(C)C=1N(C2=C(C(=NC(=C2C)C)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N1)CC1=CC(=NO1)C1=CC=C(C=C1)F | C36H36FN5O3
